US05468748
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-(1,2-dimethylethylene) acetal
A suspension of 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione (2.0 g, 10.09 mmol) in toluene (50 ml), 2,3-butanediol (20 ml) and p-toluenesulfonic acid (40 mg) was refluxed with water separation for 20 hours. The reaction mixture was evaporated in vacuo to dryness and another portion of toluene, 2,3-butanediol and p-toluenesulfonic acid was added and the mixture was refluxed again for 20 hours. After evaporation to dryness, the residue was suspended in ethanol (10 ml) and the precipitate was filtered off and washed with ethanol and dried to give 2.14 g (78.5%) of the title compound as a mixture of isomers. 1H-NMR (DMSO-d6, δ): 1.24-1.4 (m, 6H), 4.03-4.87 (m, 2H), 7.42-7.91 (m, 5H), 12.6 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione | 10.09 mmol, 2.0 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2,3-butanediol | 20 ml | CC(C(C)O)O | C4H10O2
product | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-(1,2-dimethylethylene) acetal | 2.14 g, 78.5% | CC1C(C)OC2(C=NC3=C(N2)C=2C=CC=CC2C3=O)O1 | C15H14N2O3
